US05851424
A solution of 0.2 g of trans-2,3-dihydroxy-1,4-dioxane, 0.5 g of sodium hydride and 50 ml of tetrahydrofuran is stirred for 7 hours. 1.1 g of 4-(5-[8-acryloyloxyoctyloxy]pyrimidin-2-yl)benzyl tosylate are added and the mixture is stirred at room temperature overnight, poured into 100 ml of water and then extracted three times with 50 ml of diethyl ether each time. The organic phases are combined, washed twice with 100 ml of water each time, dried over magnesium sulphate, filtered and the filtrate is concentrated. Chromatographic purification of the residue on silica gel with cyclohexane/ethyl acetate (vol. 8:2) and two-fold recrystallization from a cyclohexane/ethyl acetate mixture (vol. 8:2) of the fractions which are pure according to thin-layer chromatography gives 1.1 g of trans-2,3-bis[4-(5-[8-acryloyloxyoctyloxy]pyrimidin-2-yl)benzyloxy]-1,4-dioxane.

reactant | trans-2,3-dihydroxy-1,4-dioxane | 0.2 g | O[C@@H]1OCCO[C@H]1O | C4H8O4
reactant | sodium hydride | 0.5 g | [H-].[Na+]
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
reactant | 4-(5-[8-acryloyloxyoctyloxy]pyrimidin-2-yl)benzyl tosylate | 1.1 g | S(=O)(=O)(OCC1=CC=C(C=C1)C1=NC=C(C=N1)OCCCCCCCCOC(C=C)=O)C1=CC=C(C)C=C1 | C29H34N2O6S
solvent | water | 100 ml | O | H2O
product | trans-2,3-bis[4-(5-[8-acryloyloxyoctyloxy]pyrimidin-2-yl)benzyloxy]-1,4-dioxane | 1.1 g | C(C=C)(=O)OCCCCCCCCOC=1C=NC(=NC1)C1=CC=C(CO[C@@H]2OCCO[C@H]2OCC2=CC=C(C=C2)C2=NC=C(C=N2)OCCCCCCCCOC(C=C)=O)C=C1 | C48H60N4O10
